US07737166B2
tert-Butyl methyl-(3-tri-n-butylstannylcyclopent-2-enyl)carbamate (I-332)
Tert-butyl (3-tri-n-butylstannylcyclopent-2-enyl)carbamate (2.0 g, 4.24 mmol) was dissolved in N,N-dimethylformamide (40 ml), and at 0° C., methyl iodide (527 μl, 8.47 mmol) and then sodium hydride (55%, w/w), (277 mg, 6.35 mmol) were added. With gradually warming from 0° C. up to room temperature, this was stirred for 24 hours. At 0° C., aqueous saturated ammonium chloride solution was added to the solution, followed by stirring at the same temperature for 30 minutes. The solution was extracted three times with ethyl acetate. The organic layers were combined, washed with saturated brine, and dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=99:1, v/v) to obtain a colorless oil (1.982 g, 96%).

reactant | Tert-butyl (3-tri-n-butylstannylcyclopent-2-enyl)carbamate | 4.24 mmol, 2.0 g | C(CCC)[Sn](C1=CC(CC1)NC(OC(C)(C)C)=O)(CCCC)CCCC
reactant | methyl iodide | 8.47 mmol, 527 μl | CI | CH3I
reactant | sodium hydride | 6.35 mmol, 277 mg | [H-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | tert-Butyl methyl-(3-tri-n-butylstannylcyclopent-2-enyl)carbamate | 1.982 g, 96% | CN(C(OC(C)(C)C)=O)C1C=C(CC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C11H18NO2.3C4H9.Sn/c1-11(2,3)14-10(13)12(4)9-7-5-6-8-9;3*1-3-4-2;/h8-9H,5,7H2,1-4H3;3*1,3-4H2,2H3;
